US05952335
Ethyl 13H-benz[6,7]indolo[2,3-c]quinoline-12-carboxylate
Subsequently, 20 ml of ethanol was added to 540 mg (2.1 mmol) of 7-(2-aminophenyl)benz[g]indole and 260 mg (2.5 mmol) of ethyl glyoxylate (polymeric) and the obtained mixture was heated under reflux for 8 hours. After distilling off the solvent, the residue was purified by silica gel column chromatography to thereby give 380 mg (yield: 53%) of the title compound.

reactant | 7-(2-aminophenyl)benz[g]indole | 2.1 mmol, 540 mg | NC1=C(C=CC=C1)C=1C=CC=2C(=CC=C3C=CNC23)C1 | C18H14N2
reactant | ethyl glyoxylate | 2.5 mmol, 260 mg | C(C=O)(=O)OCC | C4H6O3
reactant | ethanol | 20 ml | C(C)O | C2H6O
product | Ethyl 13H-benz[6,7]indolo[2,3-c]quinoline-12-carboxylate | 380 mg, yield: 53% | C1=C2C=3C(C=NC2=CC=C1)=NC1=C2C(=C(CC13)C(=O)OCC)C=CC=C2 | C22H16N2O2
